US03947470
3-[3-Methoxy-4-(3-diethylaminopropoxy)benzoyl]-2-phenylbenzofuran
Reaction of 3-(3-methoxy-4-hydroxybenzoyl)-2-phenylbenzofuran with 3-diethylaminopropyl chloride according to the procedure of Example 1 gives the title compound.

reactant | 3-(3-methoxy-4-hydroxybenzoyl)-2-phenylbenzofuran | COC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=CC1O | C22H16O4
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 3-[3-Methoxy-4-(3-diethylaminopropoxy)benzoyl]-2-phenylbenzofuran | COC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=CC1OCCCN(CC)CC | C29H31NO4
